US06589970B2
Step 3: (6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid.
1 N NaOH (431 μL, 0.431 mmol) was added under nitrogen to a solution at room temperature of (6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester (170 mg, 0.359 mmol), prepared in the previous step, in 25 mL of MeOH plus 10 mL of water. After the addition the reaction was stirred at room temperature for 18 h (overnight). The reaction was acidified with 1 N HCl and then concentrated under reduced pressure to remove the MeOH. The solid present was collected by filtration and dried under reduced pressure to give the title compound (146 mg, 92%) as an off-white solid, mp 175-177° C.

reactant | NaOH | 0.431 mmol, 1 N, 431 μL | [OH-].[Na+]
reactant | (6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid methyl ester | 0.359 mmol, 170 mg | COC(COC1=CC2=CC=C(C=C2C=C1)CNC(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)=O | C27H27N3O4
reactant | water | 10 mL | O | H2O
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 25 mL | CO | CH4O
product | (6-{[(1-phenyl-5-propyl-1H-pyrazole-4-carbonyl)-amino]-methyl}-naphthalen-2-yloxy)-acetic acid | 146 mg, 92% | C1(=CC=CC=C1)N1N=CC(=C1CCC)C(=O)NCC=1C=C2C=CC(=CC2=CC1)OCC(=O)O | C26H25N3O4
